US06441017B1
Step D: 2-(3-tert-Butyldimethylsilyloxyphenyl)aniline
2-(3-tert-Butyldimethylsilyloxyphenyl)nitrobenzene, as described above in Step C, (11.94 g, 36.24 mmol) was dissolved in EtOH (250 mL) and EtOAc (250 mL), degassed with argon and Pd/C (1.19 g, 10 wt %) was added. The vessel Was subjected to H2 (1 atm) while vigorously stirring for 2.5 hour. The reaction was filtered through a celite pad and concentrated in vacuo, to yield the above-titled compound.

reactant | 2-(3-tert-Butyldimethylsilyloxyphenyl)nitrobenzene | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C18H23NO3Si
solvent | EtOH | 250 mL | CCO | C2H6O
product | 2-(3-tert-Butyldimethylsilyloxyphenyl)aniline | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)C1=C(N)C=CC=C1 | C18H25NOSi
